US07141596B2
Methyl 2-[4-((2S)-2-(acetylamino)-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoylamino)butoxy]-6-hydroxybenzoate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid (12 mg, 0.035 mmol) in N,N-dimethylformamide (1.0 mL,) was added N,N-diisopropylethylamine (0.018 mL, 0.10 mmol) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (16 mg, 0.042 mmol) and premixed for 5 minutes. Methyl 2-(4-aminobutoxy)-6-hydroxybenzoate hydrochloride (12 mg, 0.042 mmol) was added and the mixture was stirred for 2 h. The product was purified by preparative LCMS to afford the desired product (4.0 mg, 20%). 1H NMR (500 MHz, CD3OD): δ 7.43–7.45 (m, 2H), 7.35–7.36 (m, 2H), 7.27(t, J=8.3 Hz), 6.49–6.53 (m, 2H), 5.12–5.17 (m, 1H), 4.55–4.59 (m, 1H), 3.96–3.99 (m, 2H), 3.90 (s, 3H), 2.89–3.89 (m, 4H), 1.95 (s, 3H), 1.64–1.68 (m, 2H), 1.57–1.61 (m, 2H); LCMS found for C26H32N3O9S (M+H)+: m/z=562.2.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 0.035 mmol, 12 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O | C21H30N2O7S
reactant | N,N-diisopropylethylamine | 0.10 mmol, 0.018 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.042 mmol, 16 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | Methyl 2-(4-aminobutoxy)-6-hydroxybenzoate hydrochloride | 0.042 mmol, 12 mg | Cl.NCCCCOC1=C(C(=O)OC)C(=CC=C1)O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | Methyl 2-[4-((2S)-2-(acetylamino)-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoylamino)butoxy]-6-hydroxybenzoate | 4.0 mg, 20% | C(C)(=O)N[C@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O | C26H31N3O9S
